US08686024B2
Synthesis of 1-benzylindolin-5-yl ethylcarbamate
The title compound was synthesized from 1-benzylindolin-5-ol (15.0 mg, 66.6 μmol) using the same procedure employed for Example 2 (2), but with ethylisocyanate instead of 4-isopropylphenylisocyanate. The product was obtained having the following characteristics (12.4 mg, 63%).

reactant | 1-benzylindolin-5-ol | 66.6 μmol, 15.0 mg | C(C1=CC=CC=C1)N1CCC2=CC(=CC=C12)O | C15H15NO
reactant | ethylisocyanate | C(C)N=C=O | C3H5NO
product | 1-benzylindolin-5-yl ethylcarbamate | C(C)NC(OC=1C=C2CCN(C2=CC1)CC1=CC=CC=C1)=O | C18H20N2O2
